US07465795B2
4-amino-8-(3-dimethylaminophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 3-dimethylaminophenyl boronic acid (160 mg, 0.97 mmol) were reacted to afford the title compound (99 mg, 88.6% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.60 (br, 1H), 7.83 (m, 2H), 7.70 (t, J=7.7 Hz, 1H), 7.35 (t, J=7.9 Hz, 1H), 7.03 (d, J=7.9 Hz, 1H), 6.98 (m, 1H), 6.82 (dd, J=8.3 Hz, J′=2.3 Hz, 1H), 3.46 (q, J=6.7 Hz, 2H), 2.99 (s, 6H), 1.67 (m, J=7.2 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H) MS APCI, m/z=350 (M+H) HPLC 1.60 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3-dimethylaminophenyl boronic acid | 0.97 mmol, 160 mg | CN(C=1C=C(C=CC1)B(O)O)C | C8H12BNO2
product | 4-amino-8-(3-dimethylaminophenyl)-N-propyl-cinnoline-3-carboxamide | 99 mg, 88.6% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC=C1)N(C)C)C(=O)NCCC | C20H23N5O
